US08754054B2
To a −78° C. solution of (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (50 mg, 0.072 mmol) in THF (2 mL) was added a solution of phenylmagnesium bromide in THF (1M, 0.72 mL, 0.72 mmol) dropwise. The reaction mixture was stirred at −78° C. for 3 h, and then quenched with a saturated solution of ammonium chloride. The mixture was extracted with chloroform (3×15 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude was purified by preparative TLC (silica gel, 95:5 chloroform/methanol) twice to afford (6R,6aS,14aR)-methyl 1,6,8,12,14a-pentahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,14-trioxo-12-phenyl-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (diastereomer A, 8 mg, 14%) as a yellow solid: 1H NMR (500 MHz, CDCl3) δ 15.16 (s, 1H), 11.96 (s, 1H), 7.62 (s, 1H), 7.56-7.53 (m, 2H), 7.37-7.29 (m, 3H), 6.52 (s, 1H), 6.26 (d, J=8.5 Hz, 1H), 5.66 (s, 1H), 5.19 (s, 1H), 4.94 (t, J=6.5 Hz, 1H), 4.70 (d, J=9.5 Hz, 1H), 4.64 (d, J=8.5 Hz, 1H), 3.80 (s, 3H), 3.65 (s, 4H), 3.60-3.52 (m, 2H), 3.52 (s, 3H), 3.39 (s, 3H), 3.35-3.13 (m, 3H), 3.00 (t, J=9.0 Hz, 1H), 2.48 (d, J=4.0 Hz, 1H), 2.38 (s, 3H), 1.24 (d, J=6.0 Hz, 3H); MS (ESI+) m/z 776 (M+H); HPLC 97.5% (AUC), tR 13.23 min; and (6R,6aS,14aR)-methyl 1,6,8,12,14a-pentahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,14-trioxo-12-phenyl-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (diastereomer B, 5 mg, 9%) as a yellow solid: 1H NMR (500 MHz, CDCl3) δ 15.07 (s, 1H), 11.58 (s, 1H), 7.51 (s, 1H), 7.37-7.35 (m, 2H), 7.28-7.24 (m, 3H), 6.48 (s, 1H), 6.31 (d, J=9.0 Hz, 1H), 5.64 (s, 1H), 5.16 (s, 1H), 4.95 (t, J=6.5 Hz, 1H), 4.70-4.62 (m, 2H), 3.81 (s, 3H), 3.56 (s, 4H), 3.60-3.45 (m, 2H), 3.39 (s, 3H), 3.38 (s, 3H), 3.35-3.17 (m, 3H), 3.02 (t, J=9.0 Hz, 1H), 2.36 (s, 4H), 1.31 (d, J=6.0 Hz, 3H); MS (ESI+) m/z 776 (M+H); HPLC 93.7% (AUC), tR 12.64 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.072 mmol, 50 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H35NO15
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.72 mmol, 1M, 0.72 mL | C1CCOC1 | C4H8O
product | (6R,6aS,14aR)-methyl 1,6,8,12,14a-pentahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,14-trioxo-12-phenyl-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)(C2=CC=CC=C2)O)=O)O)C)C(=O)OC | C40H41NO15
